US07585886B2
A 1.2 g portion of 4-fluorobenzonitrile and 1.0 g of potassium carbonate were added to 25 ml DMF solution of 1.2 g of 3-hydroxybenzaldehyde and stirred overnight with heating at 100° C. The reaction solution was poured into ice water, and then work-up and purification were carried out in the standard method to obtain 1.6 g of 4-(3-formylphenoxy)benzonitrile as an oily substance. EI: 223.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxybenzaldehyde | 1.2 g | OC=1C=C(C=O)C=CC1 | C7H6O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(3-formylphenoxy)benzonitrile | 1.6 g | C(=O)C=1C=C(OC2=CC=C(C#N)C=C2)C=CC1 | C14H9NO2
